US07572820B2
1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 35C using [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid and 5-bromo-3-pyridinecarbohydrazide: 1H NMR (400 MHz, DMSO-d6) δ 9.05 (d, J=1.7 Hz, 1H), 8.93 (d, J=2.0 Hz, 1H), 8.48 (dd, J=2.0 and 1.7 Hz, 1H), 8.07 (d, J=8.5 Hz, 1H), 7.77 (d, J=8.5 Hz, 1H), 6.65 (s, 1H), 5.99 (s, 2H), 2.58 (s, 3H); MS (ES) m/z 462 (M+1, isotope for Br) and 464 (M+1, isotope for Br)

reactant | [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid | C(#N)C=1C(=C2C=C(N(C2=CC1)CC(=O)O)C)C(F)(F)F | C13H9F3N2O2
reactant | 5-bromo-3-pyridinecarbohydrazide | BrC=1C=C(C=NC1)C(=O)NN | C6H6BrN3O
product | 1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | BrC=1C=C(C=NC1)C1=NN=C(O1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C | C19H11BrF3N5O
